US05929074
3-[4-(2-Quinolylmethyl)-piperazin-1-yl]-carbonylmethoxy-4-methoxybenzylamin
A mixture comprising 1.3 g of t-butyloxycarbonyl-3-[4-(2-quinolylmethyl)-piperazin-1-yl]-carbonylmethoxy-4-methoxybenzylamine, 14 ml of chloroform and 2.8 g of trifluoroacetic acid, was stirred at room temperature for one day. To the reaction solution, 50 ml of chloroform and 50 ml of 0.5N hydrochloric acid were added, and the mixture was reversely extracted. The aqueous layer was adjusted to pH 12 with an aqueous sodium hydroxide solution and extracted with chloroform. The organic layer was washed with an aqueous potassium carbonate solution and then dried over anhydrous sodium sulfate. Then, the solvent was distilled off under reduced pressure to obtain 850 mg of the above-identified compound as oily substance.

reactant | t-butyloxycarbonyl-3-[4-(2-quinolylmethyl)-piperazin-1-yl]-carbonylmethoxy-4-methoxybenzylamine | 1.3 g | C(C)(C)(C)OC(=O)C(=O)CONCC1=CC(=C(C=C1)OC)N1CCN(CC1)CC1=NC2=CC=CC=C2C=C1 | C29H36N4O5
reactant | trifluoroacetic acid | 2.8 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | 0.5N, 50 ml | Cl | ClH
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 14 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[4-(2-Quinolylmethyl)-piperazin-1-yl]-carbonylmethoxy-4-methoxybenzylamin | 850 mg | N1=C(C=CC2=CC=CC=C12)CN1CCN(CC1)C=1C=C(CNOC=C=O)C=CC1OC | C24H26N4O3
